US05817670
A mixture of diphosphorus pentoxide (10.5 g) and phosphoric acid (5 ml) was stirred at 140° C. until it became transparent. Then, 6-amino-4-(3-chlorophenyl)-1-methyl-2(1H)-pyridone (2.34 g, 10 mmol) and acetylacetone (1.05 ml, 10 mmol) were added to this solution, and the mixture was stirred at 140° C. for 3 hours. The reaction solution was poured into ice water, made alkaline by adding 1N sodium hydroxide aqueous solution and then extracted with ethyl acetate. After drying the organic layer with anhydrous magnesium sulfate, magnesium sulfate was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was then purified by silica gel column chromatography (benzene-ethyl acetate) to give 4-(3-chlorophenyl)-1,5,7-trimethyl-1,8-naphthyridin-2(1H)-one (2.11 g, 71%).

reactant | diphosphorus pentoxide | 10.5 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | phosphoric acid | 5 ml | P(O)(O)(O)=O | H3O4P
reactant | 6-amino-4-(3-chlorophenyl)-1-methyl-2(1H)-pyridone | 10 mmol, 2.34 g | NC1=CC(=CC(N1C)=O)C1=CC(=CC=C1)Cl | C12H11ClN2O
reactant | acetylacetone | 10 mmol, 1.05 ml | C(C)(=O)CC(C)=O | C5H8O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
product | 4-(3-chlorophenyl)-1,5,7-trimethyl-1,8-naphthyridin-2(1H)-one | 2.11 g, 71% | ClC=1C=C(C=CC1)C1=CC(N(C2=NC(=CC(=C12)C)C)C)=O | C17H15ClN2O
